US05212171
Preparation of 2-(2-fluorophenyl)-6-nitro-1,3-benzodioxan
An intimate mixture of 2-hydroxy-5-nitrobenzyl alcohol (4.56g), 2-fluorobenzaldehyde (4.02g) and benzoic acid (0.2g) was stirred and heated to 90° C. (±5° C.) under nitrogen for 31/2 hours. The resulting clear reaction mixture was left to cool for two days whereupon it solidified. This material was dissolved in ethyl acetate (250 ml) and the solution was washed with saturated aqueous sodium bicarbonate, 20% aqueous sodium bisulphite and then with water. The organic phase was dried over sodium sulphate and evaporated to yield the crude product as a solid residue which was purified by suspending briefly in hot ethanol and cooling to 0°-5° C. The pure product was thus obtained as a white crystalline powder (5.3g, 71%), mp 137°-138° C.

reactant | 2-hydroxy-5-nitrobenzyl alcohol | 4.56g | OC1=C(CO)C=C(C=C1)[N+](=O)[O-] | C7H7NO4
reactant | 2-fluorobenzaldehyde | 4.02g | FC1=C(C=O)C=CC=C1 | C7H5FO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
catalyst | benzoic acid | 0.2g | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | 2-(2-fluorophenyl)-6-nitro-1,3-benzodioxan | 5.3g, 71% | FC1=C(C=CC=C1)C1OCC2=C(O1)C=CC(=C2)[N+](=O)[O-] | C14H10FNO4
